* C:\Users\david\Desktop\École\Université\Undergrad\Work\Labs\ADC4\Draft9.asc
V1 a 0 3
R2 0 c 9
R3 c b 7
D1 b a 1N914
D2 a b 1N914
.model D D
.lib C:\Users\david\Documents\LTspiceXVII\lib\cmp\standard.dio
.op
.backanno
.end
